US08133889B2
1-(4-Morpholin-4-ylmethyl-1H-pyrrol-2-yl)-ethanone
To a solution of morpholine (22 mmoles) in acetic acid (60 ml) at 0° C. there are added 1-(1H-pyrrol-2-yl)-ethanone (20 mmoles) and formaldehyde (20 mmoles) 37% in water. The reaction mixture is stirred overnight at ambient temperature. At 0° C., the solution is brought to alkaline pH (10-12) using 20% aqueous NaOH solution and is then extracted with DCM. The organic phase is washed with water and with saturated aqueous NaCl solution, dried over sodium sulphate, filtered and evaporated to dryness. Purification by flash chromatography on silica gel (SiO2; gradient DCM/MeOH) to yield the title product.

reactant | morpholine | 22 mmoles | N1CCOCC1 | C4H9NO
reactant | 1-(1H-pyrrol-2-yl)-ethanone | 20 mmoles | N1C(=CC=C1)C(C)=O | C6H7NO
reactant | formaldehyde | 20 mmoles | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(4-Morpholin-4-ylmethyl-1H-pyrrol-2-yl)-ethanone | N1(CCOCC1)CC=1C=C(NC1)C(C)=O | C11H16N2O2
